US07582626B2
d) cis-N-[3-(4-Hydroxy-2-oxo-1-pyridin-2-ylmethyl-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide
A solution of 2-{[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-pyridin-2-ylmethyl-amino}-cyclopentanecarboxylic acid ethyl ester (0.043 g, 0.076 mmol) in ethanol (5 mL) was treated with a 21% w/w solution of sodium ethoxide in ethanol (0.114 mL) and stirred for 16 h at 60° C. Glacial acetic acid (0.100 mL) was added, the solvents were removed in vacuo, and the residue was purified by prep-HPLC [Column Luna 5μ C18 (2) 100 Å AXIA 50×21.2 mm, 5 micron, 30%-90% in 7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, cis-N-[3-(4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide (8.7 mg, 0.017 mmol, 22.4%), as a pale brown solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.47-1.71 (3H, m), 1.99-2.15 (3H, m), 3.06 (3H, s), 3.97-4.03 (1H, m), 4.61-4.65 (1H, m), 4.99 (1H, d, J=15.3 Hz), 7.32-7.35 (1H, m), 7.42 (1H, d, J=7.8 Hz), 7.49-7.52 (1H, m), 7.56-7.58 (2H, m), 7.80-7.84 (1H, m), 8.54 (1H, d, J=4.7 Hz), 10.18 (1H, s). LC-MS (ESI) calcd for C22H23N5O6S2 517.11, found 518.1 [M+H+].

reactant | 2-{[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-pyridin-2-ylmethyl-amino}-cyclopentanecarboxylic acid ethyl ester | 0.076 mmol, 0.043 g | C(C)OC(=O)C1C(CCC1)N(CC1=NC=CC=C1)C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C24H29N5O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acetic acid | 0.100 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 0.114 mL | C(C)O | C2H6O
product | cis-N-[3-(4-hydroxy-2-oxo-1-pyridin-2-ylmethyl-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide | 0.017 mmol, 8.7 mg, 22.4% | OC1=C(C(N([C@H]2CCC[C@@H]12)CC1=NC=CC=C1)=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O | C22H23N5O6S2
